US04369139
150 mg. of 1-(p-hydroxybenzoyl)-2-pyrrolidinone are dissolved in 7 ml. of absolute tetrahydrofuran and then etheric diazomethane solution is added. The solvents are distilled off, the residue is triturated with diethyl ether and the mixture is filtered. There is obtained 1-(p-methoxybenzoyl)-2-pyrrolidinone which melts at 117.5°-119° C. after sublimation.

reactant | 1-(p-hydroxybenzoyl)-2-pyrrolidinone | OC1=CC=C(C(=O)N2C(CCC2)=O)C=C1 | C11H11NO3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(p-methoxybenzoyl)-2-pyrrolidinone | COC1=CC=C(C(=O)N2C(CCC2)=O)C=C1 | C12H13NO3
